tb_v3_overload__b0_r169.cir - L40 ESPLORAZIONE da tb_v3_overload.cir, RG0L40 FB 0 7.87k; alter r138 = 6.49k; alter c137 = 220p
* PART 1 (V3): +10 dB mode, 1 kHz, driven at 8 V pk - 5.6 dB past the 4.18 V pk
* input that clips the stage - for 5 cycles, then back to a 0.5 V pk burst.
* Measures how long the output takes to return to its linear envelope.
* A discrete feedback amplifier can latch or take milliseconds to recover;
* the requirement says verify, not assume.
*
* PART 2: a .four run at 1 kHz. Until L39 its result was meaningless: the
* models were hand-written placeholders fitted to nothing. Since L39 (NC-017)
* they are the manufacturer's, so the number is a MODEL figure - of models
* that miss their own datasheet in places (NC-020, NC-024, NC-025), with no
* spread. It is not a measurement and not V4 evidence on its own.

.include @REPO@/models/jfet/lsk489.lib
.include @REPO@/models/bjt_npn/mmbt5551.lib
.include @REPO@/models/bjt_pnp/mmbt5401.lib
.include @REPO@/models/bjt_npn/mje15032.lib
.include @REPO@/models/bjt_pnp/mje15033.lib
.include @REPO@/models/diodes/1n4148.lib
* L39 (NC-017): every active device in this deck is a vendor model from
* models/, each next to its .provenance.json:
*   LSK489   - vendor model LSK489A, the published corner sample (I_DSS
*              2.59 mA, below the group-B window of ADR-031)
*   LS352    - vendor model LS350 (ADR-018), included on the next line
*   MMBT5551 - vendor model, Diodes Inc. (ADR-017)
*   MMBT5401 - vendor model, Diodes Inc. (ADR-017)
*   MJE15032 - vendor model Qmje15032, onsemi (NC-024, NC-025)
*   MJE15033 - vendor model Qmje15033, onsemi (NC-025)
*   1N4148   - vendor model D1N914, onsemi (docs/limitations.md #20)
* Only the LSK489A carries KF: 1/f noise is on the input pair and nowhere
* else. No model carries part-to-part spread.
.include @REPO@/models/bjt_pnp/ls350.lib
.include @REPO@/spice/preamp/gain_block_flat.inc

VPP VPLUS 0 DC 15
VMM VMINUS 0 DC -15
* 3.5 V pk from 1 ms to 6 ms, then 0.5 V pk - built from two sines gated by
* PWL amplitude is not available, so use a PWL-driven behavioural source.
VBIG  NBIG 0 SIN(0 1 1k)
VGATE NGATE 0 PWL(0 0.5 0.999m 0.5 1.000m 8.0 6.000m 8.0 6.001m 0.5 20m 0.5)
BSRC  SRCN 0 V = V(NBIG)*V(NGATE)
RSRC  SRCN IN 430

CSTRAY RG 0 15p
CSTRAY10 RG10 0 15p
RRG    RG 0 0.1
RRG10  RG10 0 0.1

RISO   OUT OUTA 47
COUT   OUTA JACK 4.7u
RBLEED JACK 0 220k
RLOAD  JACK 0 100k

* L40: righe di netlist in piu' (varianti.py)
RG0L40 FB 0 7.87k
.control
* L40: variante
alter r138 = 6.49k
alter c137 = 220p
show r138 : resistance
show c137 : capacitance
show rg0l40 : resistance
tran 1u 20m 0 1u
wrdata tb_v3_overload_wrdata.txt v(SRCN) v(OUT) v(JACK) v(NX)
echo "PART 2 - Fourier at 1 kHz. A MODEL FIGURE (L39): not a measurement, not V4 evidence."
alter @vgate[pwl] = [ 0 0.5 20m 0.5 ]
tran 1u 20m 10m 1u
fourier 1000 v(OUT)
.endc

.end
